US07378436B2
(3S)-N-Butyl-1-(trifluoroacetyl)pyrrolidin-3-amine
Triethylamine (1.9 mL, 13.72 mmol) and butanal (1.3 mL, 14.41 mmol) were added to a solution of (S)-1-(trifluoroacetyl)pyrrolidin-3-yl amine (3.0 g, 13.72 mmol) (J. Med. Chem., 1996, 39(14), pg. 2771, No. 6) in ethanol (60 mL). The reaction mixture was treated with 10% Pd/C (300 mg) and placed under about 415 kPa (about 60 psi) of hydrogen at room temperature for 18 hours. The reaction mixture was filtered through Arbocel®, washing through with ethyl acetate. The filtrate was washed with saturated sodium hydrogencarbonate solution, dried over magnesium sulphate and concentrated in vacuo. The crude product was purified by column chromatography on silica gel eluting with ethyl acetate:pentane:triethylamine 25:75:0 to 100:0:0 to 99:0:1 to yield the title product.

reactant | Triethylamine | 13.72 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | butanal | 14.41 mmol, 1.3 mL | C(CCC)=O | C4H8O
reactant | (S)-1-(trifluoroacetyl)pyrrolidin-3-yl amine | 13.72 mmol, 3.0 g | FC(C(=O)N1C[C@H](CC1)N)(F)F | C6H9F3N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | (3S)-N-Butyl-1-(trifluoroacetyl)pyrrolidin-3-amine | C(CCC)N[C@@H]1CN(CC1)C(C(F)(F)F)=O | C10H17F3N2O
